US05318966
2.69 g (0.00917 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-phenethyl-1H-benzo[e]indol-6-ol were dissolved in 90 ml of toluene. 0.974 g (1.34 ml, 0.00963 mol) of triethylamine and 112 mg (917 mmol, 0.1 eq.) of 4-dimethylaminopyridine were added thereto in succession and then 0.88 ml (0.00963 mol) of dimethyl chloroformamide were added dropwise thereto. The mixture was boiled under reflux for 5 hours, then cooled, poured into water and extracted with CH2Cl2. The organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with Na2SO4, filtered and concentrated. By chromatography of the residue over silica gel with dichloromethane/isopropyl alcohol and crystallization of the product in hexane/ethyl acetate there were obtained 3.08 g (92%) of rac-cis-2,3,3a,4,5,9b-hexa-hydro-3-phenethyl-1H-benzo[e]indol-6-yl dimethylcarbamate as yellowish crystals with m.p. 98°-102°.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-3-phenethyl-1H-benzo[e]indol-6-ol | 0.00917 mol, 2.69 g | C(CC1=CC=CC=C1)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C20H23NO
reactant | triethylamine | 0.00963 mol, 1.34 ml, 0.974 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl chloroformamide | 0.00963 mol, 0.88 ml | CC(=O)N(Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 917 mmol, 112 mg, 0.1 eq. | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-2,3,3a,4,5,9b-hexa-hydro-3-phenethyl-1H-benzo[e]indol-6-yl dimethylcarbamate | 3.08 g, 92% | CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC2=CC=CC=C2)=O)C | C23H28N2O2
